US04736067
Preparation of 4-amino-5,6-dimethyl-3-nitro-N-β-hydroxyethylaniline
0.0417 mole (12 g) of β-chloroethyl 4-amino-5,6-dimethyl-3-nitrophenylcarbamate is suspended in 36 ml of 96° alcohol. A solution of 6.2 g of caustic soda pellets of 97% strength in 15 ml of water is added in small portions with stirring; the reaction mixture is heated to the refluxing temperature of the alcohol. After being heated for 2 hours the reaction mixture is poured into 200 g of iced water and acidified with acetic acid.

reactant | β-chloroethyl 4-amino-5,6-dimethyl-3-nitrophenylcarbamate | 0.0417 mole, 12 g | NC1=C(C=C(C(=C1C)C)NC(OCCCl)=O)[N+](=O)[O-] | C11H14ClN3O4
reactant | caustic soda | 6.2 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
solvent | water | 200 g | O | H2O
product | 4-amino-5,6-dimethyl-3-nitro-N-β-hydroxyethylaniline | NC1=C(C=C(NCCO)C(=C1C)C)[N+](=O)[O-] | C10H15N3O3
